US05733912
13a. 7a-Ethynyl-hexahydro-1H-pyrrolizine
1,2,3,5,6,7-Hexahydropyrrolizinylium perchlorate (1.0 g, 4.8 mmol) was added to a solution of 0.5M ethynylmagnesium bromide (29 mL, 14.3 mmol) in THF at room temperature. The reaction mixture was allowed to stir for 45 minutes, and 15% NaOH solution was added. The slurry was diluted with brine:water (1:1) and extracted with CH2Cl2 (3×). The organic phases were combined, dried (MgSO4), concentrated and chromatographed (silica gel; CHCl3 /MeOH, 90:10) to afford an amber oil (463 mg, 71%): 1H NMR (CDCl3, 300 MHz) δ1.75-2.06 (m, 6H), 2.14-2.23 (m, 2H), 2.33 (s, 1H), 2.53-2.62 (m, 2H), 3.22-3.28 (m, 2H); MS (Cl/NH3) m/z: 136 (M+H)+.

reactant | 1,2,3,5,6,7-Hexahydropyrrolizinylium perchlorate | 4.8 mmol, 1.0 g | Cl(=O)(=O)(=O)[O-].[CH+]1CCN2CCCC12
reactant | ethynylmagnesium bromide | 14.3 mmol, 0.5M, 29 mL | C(#C)[Mg]Br
reactant | NaOH | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | brine water | [Cl-].[Na+].O.O
product | 7a-Ethynyl-hexahydro-1H-pyrrolizine | 463 mg, 71% | C(#C)C12CCCN2CCC1 | C9H13N
